US06297258B1
4-(3-Chloro-4-fluoroanilino)-7-(4-methyl-1-piperazinyl)-6-nitro-3-quinolinecarbonitrile
A stirred mixture of 4-(3-chloro-4-fluoroanilino)-7-chloro-6-nitro-3-quinolinecarbonitrile (1.88 g, 5.0 mmol), N-methylpiperazine (5 ml, 45 mmol), and 10 ml of toluene was refluxed for 45 m, evaporated to remove volatile matter, and stirred in water with potassium carbonate (2.75 g). The resulting solid was filtered, washed with water, and dried to give 2.26 g. An acetone solution was passed onto a pad of silica gel; elution with 50:2:1 acetone-MeOH-TEA and evaporation gave a red solid, mp 240-246°; ms 441.2 (M+H)+, 221.2 (M+2H)+2.

reactant | 4-(3-chloro-4-fluoroanilino)-7-chloro-6-nitro-3-quinolinecarbonitrile | 5.0 mmol, 1.88 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)[N+](=O)[O-])Cl)C#N)C=CC1F | C16H7Cl2FN4O2
reactant | N-methylpiperazine | 45 mmol, 5 ml | CN1CCNCC1 | C5H12N2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | CC(=O)C | C3H6O
product | 4-(3-Chloro-4-fluoroanilino)-7-(4-methyl-1-piperazinyl)-6-nitro-3-quinolinecarbonitrile | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)[N+](=O)[O-])N2CCN(CC2)C)C#N)C=CC1F | C21H18ClFN6O2
